US07875639B2
3-(2-Methoxyethyl)-5-methyl-3H-thiazol-2-ylideneamine hydrobromide
A mixture of 5-methyl-thiazol-2-ylamine (1.0 g, 8.8 mmol) and 2-bromoethyl methyl ether (10 mL, 11 mmol) were heated at 85° C. for 16 hours. The mixture was cooled to ambient temperature, triturated with ethanol and the solid was collected by filtration to afford 0.90 g (40%) of the title compound. 1H NMR (CDCl3, 300 MHz) δ ppm 2.25 (d, J=1.4 Hz, 3 H), 3.36 (s, 3 H), 3.72-3.81 (m, 2 H), 4.36-4.43 (m, 2 H), 6.61 (d, J=1.7 Hz, 1 H), 9.54 (s, 1 H); MS (DCI/NH3) m/z 173 (M+H)+.

reactant | 5-methyl-thiazol-2-ylamine | 8.8 mmol, 1.0 g | CC1=CN=C(S1)N | C4H6N2S
reactant | 2-bromoethyl methyl ether | 11 mmol, 10 mL | COCCBr | C3H7BrO
product | 3-(2-Methoxyethyl)-5-methyl-3H-thiazol-2-ylideneamine hydrobromide | 0.90 g, 40% | Br.COCCN1C(SC(=C1)C)=N | InChI=1S/C7H12N2OS.BrH/c1-6-5-9(3-4-10-2)7(8)11-6;/h5,8H,3-4H2,1-2H3;1H
